US06034055
16h N-[2-(N-tert-Butyloxycarbonyl-glycyl-glycyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-oleamide.
from N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-oleamide and N-tert-butyloxycarbonyl-glycyl-glycine. Yield 56%. [α]D =+8.5° (c=0.82, tetrahydrofuran).

reactant | N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-oleamide | N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCC)N | C41H79N3O6
reactant | N-tert-butyloxycarbonyl-glycyl-glycine | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)O | C9H16N2O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-(N-tert-Butyloxycarbonyl-glycyl-glycyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-oleamide | Yield 56% | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCC)N | C50H93N5O10
